US04977272
A solution of 0.1 mol of p-aminobenzaldehyde ethylene glycol acetal in 100 mL of anhydrous THF is added dropwise over 10 minutes to a solution of 0.1 mol of methyl 2-isocyanato-4-methyl-4-pentenoate and 0.35 mol pyridine in 100 mL THF at room temperature under N2. The reaction mixture is stirred at room temperature for 2 hours. After 2 hours the solvent is removed by rotary evaporator. A solution of 0.11 mmol hydroxylamine hydrochloride and 0.1 mol trimethyl orthoformate in CH3OH is added, and the reaction mixture is heated to reflux under N2 for 1 hour. The reaction mixture is reduced to about 1/4 volume by rotary evaporator, and water is added. The product, N-[4-(hydroxyiminomethyl)phenyl]-N'-[1-(1-methoxycarbonyl-3-methyl-3-butenyl]urea, is isolated by filtration and dried in vacuo.

reactant | methyl 2-isocyanato-4-methyl-4-pentenoate | 0.1 mol | N(=C=O)C(C(=O)OC)CC(=C)C | C8H11NO3
reactant | pyridine | 0.35 mol | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.11 mmol | Cl.NO
reactant | trimethyl orthoformate | 0.1 mol | C(OC)(OC)OC | C4H10O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | 1-(1-methoxycarbonyl-3-methyl-3-butenyl]urea | COC(=O)C(CC(=C)C)NC(=O)N | C8H14N2O3
